US08809342B2
Step F: (S)-6-[(3-methyl-1-{4-[5-(trifluoromethyl)pyridin-2-yl]phenyl}butyl)amino]nicotinic acid
A mixture of (S)-methyl 6-[(3-methyl-1-{4-[5-(trifluoromethyl)pyridin-2-yl]phenyl}butyl)amino]nicotinate (53.0 g, 119.5 mmol) was dissolved in methanol (239 ml) and tetrahydrofuran (120 ml) and treated with aqueous lithium hydroxide (120 ml, 239 mmol, 2.0M). An additional aliquot of methanol was added to homogenize the mixture (110 ml, ˜2 ml/g). The reaction was heated to 50° C. for 12 h. The reaction was concentrated in vacuo, and the crude residue was diluted with water (500 ml). The solution was vigorously stirred and slowly acidified with aqueous 1.0M hydrochloric acid (240 ml, to approximately pH 5.0). The precipitated solid was collected by filtration and the remaining solid was dissolved with ethyl acetate and transferred into a separate flask. The crude solid was dried in vacuo and used directly for further transformations.

reactant | (S)-methyl 6-[(3-methyl-1-{4-[5-(trifluoromethyl)pyridin-2-yl]phenyl}butyl)amino]nicotinate | 119.5 mmol, 53.0 g | CC(C[C@@H](C1=CC=C(C=C1)C1=NC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)OC)C=C1)C | C24H24F3N3O2
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 239 mmol, 2.0M, 120 ml | [OH-].[Li+]
solvent | methanol | 239 ml | CO | CH4O
product | (S)-6-[(3-methyl-1-{4-[5-(trifluoromethyl)pyridin-2-yl]phenyl}butyl)amino]nicotinic acid | CC(C[C@@H](C1=CC=C(C=C1)C1=NC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)O)C=C1)C | C23H22F3N3O2
